US05990142
19A N-(3-Acetyl-2-hydroxyphenyl)-4-methoxybenzenesulfonamide
A solution of 3'-amino-2'-hydroxyacetophenone hydrobromide (1.282 g, 5.52 mmol) in pyridine (25 ml) was added at 0° C. with 4-methoxybenzenesulfonyl chloride (1.18 g, 5.71 mmol) dissolved in the minimum amount of pyridine and the mixture was left at room temperature for 18 h. Afterwards it was evaporated to dryness, redissolved in dichloromethane, washed with 1M HCl, dried and the solvent was evaporated off under reduced pressure, thereby obtaining 1.479 g of the title compound (81% yield).

reactant | 3'-amino-2'-hydroxyacetophenone hydrobromide | 5.52 mmol, 1.282 g | Br.NC=1C(=C(C=CC1)C(C)=O)O
reactant | 4-methoxybenzenesulfonyl chloride | 5.71 mmol, 1.18 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | N-(3-Acetyl-2-hydroxyphenyl)-4-methoxybenzenesulfonamide | 1.479 g, 81% yield | C(C)(=O)C=1C(=C(C=CC1)NS(=O)(=O)C1=CC=C(C=C1)OC)O | C15H15NO5S
